US06251938B1
3-(N-Me,N-nPr Carbamyloxy) N-methyl phenethylamine HCl (Compound 6)
3-(N-Me,N-nPr Carbamyloxy) N-Boc,N-methyl phenethylamine (6.0 g, 17.14 mmol) was dissolved in dioxane (60 ml) and 20% HCl/ether (60 ml) was added. The mixture was stirred at RT for 4 hrs and evaporated to dryness in-vacuo, and the residual oil was treated with ether (2×150 ml), to give, after stirring and ice-cooling, 4.6 g (93.5%) of the title compound as a white solid. In this manner the compounds shown in Table 2 were prepared, their analytical characteristics are given in Table 4.

reactant | N-Boc,N-methyl phenethylamine | 17.14 mmol, 6.0 g | C(=O)(OC(C)(C)C)N(C)CCC1=CC=CC=C1 | C14H21NO2
reactant | HCl ether | 60 ml | Cl.CCOCC
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | N-methyl phenethylamine HCl | 4.6 g, 93.5% | Cl.CNCCC1=CC=CC=C1 | InChI=1S/C9H13N.ClH/c1-10-8-7-9-5-3-2-4-6-9;/h2-6,10H,7-8H2,1H3;1H
